US04304770
2-Allyloxyimino-2-(2-formamidothiazol-4-yl)acetic acid (syn isomer) (0.80 g) and dry ethyl acetate (10 ml) were added at 0° to 5° C. with stirring to a suspension of Vilsmeier reagent prepared from dry dimethylformamide (0.25 g) and phosphorus oxychloride (0.528 g) in dry ethyl acetate (0.75 ml) by conventional method, and the resulting mixture was stirred for 30 minutes at the same temperature to give an yellow solution. The solution was added at -10° C. with stirring to a solution of 7-amino-3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (1.11 g) and trimethylsilylacetamide (2.96 g) in dry ethyl acetate (15 ml), and the mixture was stirred for 1.5 hours at the same temperature. After addition of water (15 ml) to the reaction mixture, the ethyl acetate layer was separated and extracted with an aqueous solution of sodium bicarbonate (30 ml). The aqueous extract was acifified to pH 2.0 with 10% hydrochloric acid and extracted with ethyl acetate (150 ml). The extract was washed with water, dried and evaporated. The residue was pulverized with diisopropyl ether to give colorless powder of 7-[2-allyloxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (1.48 g).

reactant | 2-Allyloxyimino-2-(2-formamidothiazol-4-yl)acetic acid | 0.80 g | C(C=C)ON=C(C(=O)O)C=1N=C(SC1)NC=O | C9H9N3O4S
reactant | Vilsmeier reagent | C[N+](=CCl)C.[Cl-]
reactant | phosphorus oxychloride | 0.528 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 7-amino-3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 1.11 g | NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC=C)C(=O)O)C1=O | C12H14N6O3S2
reactant | trimethylsilylacetamide | 2.96 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
solvent | ethyl acetate | 0.75 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 15 ml | O | H2O
solvent | dimethylformamide | 0.25 g | CN(C=O)C | C3H7NO
product | 7-[2-allyloxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 1.48 g | C(C=C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC=C)C(=O)O)C1=O)C=1N=C(SC1)NC=O | C21H21N9O6S3
